US06743902B1
To a suspension of NaH (60% in mineral oil, 0.18 g; 7.5 mmol) in anhydrous THF (18 ml) at 0° C. under argon was added dropwise a solution of 5′-O-(4,4′-dimethoxytrityl)-3′-p-toluensulfonyloxymethylthymidine (1.5 g; 2.06 mmol) in THF (10 ml). The resulting reaction mixture was stirred at room temperature for 2 h, cooled to 0° C., and quenched by addition of water. The mixture was diluted with EtOAc (250 ml), washed with water (2×200 ml), then with 10% NaHCO3 (2×200 ml), dried over Na2SO4, and concentrated. The residue was purified by chromatography on silica (5% CH3OH in CH2Cl2) to yield 0.97 g (8.5%) of 5′-O-(4,4-dimethoxytrityl)-3′-C,O-methylene thymidine as a foam.

reactant | NaH | 7.5 mmol, 0.18 g | [H-].[Na+]
reactant | 5′-O-(4,4′-dimethoxytrityl)-3′-p-toluensulfonyloxymethylthymidine | 2.06 mmol, 1.5 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)(O)COS(=O)(=O)C2=CC=C(C=C2)C)C=C1 | C39H40N2O10S
reactant | THF | 18 ml | C1CCOC1 | C4H8O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
product | 5′-O-(4,4-dimethoxytrityl)-3′-C,O-methylene thymidine | 0.97 g, 8.5% | COC1(CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)OC[C@@H]2[C@]3(C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)OC3)C=C1)OC | C32H34N2O7
